US07645753B2
4-Methoxy-3-propoxy-benzaldehyde [CAS RN 5922-56-5]
The title compound was prepared by reaction of isovanillin with propyl iodide in DMF with K2CO3 as base as described in M. J. Ashton, D. C. Cook, G. Fenton, J.-A. Karlsson, M. N. Palfreyman, D. Raeburn, A. J. Ratcliffe, J. E. Souness, S. Thurairatnam, N. Vicker J. Med. Chem. 1994, 37, 1696-1703.

reactant | isovanillin | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | propyl iodide | C(CC)I | C3H7I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Methoxy-3-propoxy-benzaldehyde | COC1=C(C=C(C=O)C=C1)OCCC | C11H14O3
